US08252935B2
b) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid
To a solution of compound 43a, 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester 60.0 mg, 0.097 mmol) in EtOH (4.8 ml) was added 2M KOH (0.48 ml, 0.48 mmol). The reaction was heated to 78° C. for 1.5 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, gave the product as a white lyophilate, (21.7 mg, 38%). 1H NMR (300 MHz, MeOD) δ ppm 0.88-0.96 (m, 6 H) 1.42-2.15 (m, 6 H) 2.70-3.24 (m, 3 H) 3.66-3.80 (m, 3 H) 4.68-7.71 (m, 1 H) 7.17 (s, 1 H) 7.32-7.81 (m, 10 H), Calcd for C32H31F6NO3 (M+H) 591.58, Found 592.3.

reactant | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 0.097 mmol, 60.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)C(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C(F)(F)F)=O | C34H35F6NO3
reactant | KOH | 0.48 mmol, 2M, 0.48 ml | [OH-].[K+]
solvent | EtOH | 4.8 ml | CCO | C2H6O
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-benzoyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CN(CCC1)C(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C(F)(F)F)C | C32H31F6NO3
